US06518423B1
1-(Purin-6-yl)ethanol
To an ethanol solution (80 ml) of 0.70 g of (purin-6-yl)ethanone was added 0.70 g of sodium borohydride and the resulting mixture was stirred at room temperature for 4 hours. The excessive reagent was decomposed by adding water and 4 N hydrochloric acid and distilled off under reduced pressure. The residue was purified by silica gel column chromatography (eluted by dichloromethane/methanol) to thereby give 0.57 g of the title compound as a white solid.

reactant | ethanol | 80 ml | C(C)O | C2H6O
reactant | (purin-6-yl)ethanone | 0.70 g | N1=CN=C2N=CNC2=C1C(C)=O | C7H6N4O
reactant | sodium borohydride | 0.70 g | [BH4-].[Na+]
reactant | hydrochloric acid | 4 N | Cl | ClH
solvent | water | O | H2O
product | 1-(Purin-6-yl)ethanol | 0.57 g | N1=CN=C2N=CNC2=C1C(C)O | C7H8N4O
